US04891363
dl-trans-2-Benzyloxymethyltetrahydropyran-3-ol
A 1M solution of borane in 29.3 ml of tetrahydrofuran was added dropwise to a solution of 9.00 g of 6-benzyloxymethyl-3,4-dihydro-2H-pyran (prepared as described in Preparation 1) dissolved in 30 ml of tetrahydrofuran at a temperature, whilst maintaining the temperature in the range from -5° C. to 0° C. The reaction mixture was then stirred at room temperature for 3 hours, after which a 10% w/v aqueous solution of sodium hydroxide was added dropwise. 10.8 ml of 30% v/v aqueous hydrogen peroxide were then added, whilst keeping the temperature in the range from 32° to 40° C. The mixture was then stirred for a further 1 hour at room temperature, after which the organic layer was separated, washed wth water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The oily residue (10.5 g) was purified by column chromatography through 250 g of silica gel. 8.82 g of the title compound were obtained from those fractions eluted with a 1:20 by volume mixture of ethyl acetate and methylene chloride. It boiled at 130°-135° C. (bath temperature)/1 mmHg (133 Pa).

reactant | borane | B | BH3
reactant | 6-benzyloxymethyl-3,4-dihydro-2H-pyran | 9.00 g | C(C1=CC=CC=C1)OCC1=CCCCO1 | C13H16O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrogen peroxide | OO | H2O2
solvent | tetrahydrofuran | 29.3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | trans-2-Benzyloxymethyltetrahydropyran-3-ol | 8.82 g | C(C1=CC=CC=C1)OC[C@@H]1OCCC[C@H]1O | C13H18O3
